US08629282B2
Racemic 3-azido-4-oxochroman-7-carbonitrile Int-2-B (2.30 g, 10.8 mmol) was dissolved in THF (103 mL) and water (5.42 mL) at 0° C. To this solution was added sodium borohydride (0.53 g, 14.1 mmol). The reaction mixture was stirred at 0° C. for 45 mins. Next, the reaction was quenched by addition of 1N HCl. The resulting solution was extracted with EtOAc and washed with water and brine. The organic layers were combined, dried (MgSO4) and concentrated to give racemic (3R*,4S*)-3-azido-4-hydroxychroman-7-carbonitrile Int-2-C (2.21 g, 10.2 mmol, 94.3% yield): LCMS=217.06 [M+H]+.

reactant | Racemic 3-azido-4-oxochroman-7-carbonitrile | N(=[N+]=[N-])C1COC2=CC(=CC=C2C1=O)C#N | C10H6N4O2
reactant | water | 5.42 mL | O | H2O
reactant | sodium borohydride | 14.1 mmol, 0.53 g | [BH4-].[Na+]
solvent | THF | 103 mL | C1CCOC1 | C4H8O
product | racemic (3R*,4S*)-3-azido-4-hydroxychroman-7-carbonitrile | 94.3% yield | N(=[N+]=[N-])C1COC2=CC(=CC=C2C1O)C#N | C10H8N4O2
